US04725597
A mixture of 4.2 g of 1-(4-chlorobenzyl)piperazine, 1.4 g of malonyl dichloride, 10 g of methylene chloride and 2.0 g of triethylamine was stirred for 60 hours. The reaction mixture was made basic with 2N sodium hydroxide. The organic layer was separated, and the aqueous phase was extracted with three 50 ml portions of ether, followed by three 50 ml portions of methylene chloride. The organic phases were combined and mixed with 100 ml of 2N hydrochloric acid. The aqueous phase was separated and made basic with 2N sodium hydroxide solution. The resulting oil was collected and chromatographed on silica, the eluant being CH2Cl2 /CH2OH/ammonium hydroxide (200:5:1). The appropriate fractions were combined, evaporated to an oil, dissolved in 100 ml of ether and precipitated with excess anhydrous hydrogen chloride. The precipitate was recrystallized from reagent ethanol to yield 1.3 g (22% of theory) of 1,3-bis[4-(4 -chlorobenzyl)-1-piperazinyl]-1,3-dioxopropane dihydrochloride monohydrate as a very slightly yellow crystalline solid (m.p. 199°-206° C.).

reactant | 1-(4-chlorobenzyl)piperazine | 4.2 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | malonyl dichloride | 1.4 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | methylene chloride | 10 g | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | 1,3-bis[4-(4 -chlorobenzyl)-1-piperazinyl]-1,3-dioxopropane dihydrochloride monohydrate | 1.3 g, 22% | O.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)C(CC(=O)N2CCN(CC2)CC2=CC=C(C=C2)Cl)=O)C=C1 | InChI=1S/C25H30Cl2N4O2.2ClH.H2O/c26-22-5-1-20(2-6-22)18-28-9-13-30(14-10-28)24(32)17-25(33)31-15-11-29(12-16-31)19-21-3-7-23(27)8-4-21;;;/h1-8H,9-19H2;2*1H;1H2
